US05164407
To a stirred solution of 2-butyl-1H-thieno-[3,4-d]imidazole (38 mg, 0.211 mmol) in DMF (1.6 mL) at room temperature was added NaH (316 mmol). After 30 minutes, tert-butyl-4'-bromomethylbiphenyl-2-carboxylate (80.5 mg, 0.232 mmol) was added in one portion. The reaction mixture was stirred for 2 hours and brine (5 mL) was added. Extractive workup (EtOAc) and purification by flash chromatography (SiO2, 40% EtOAc/hexane) gave 64 mg (68%) of 4'-[(2-butyl-1H-thieno[3,4-d]imidazol-1-yl)methyl][1,1'-biphenyl]-2-carboxylic acid t-butyl ester as a thick oil: 1H NMR (300 MHz, CDCl3) δ 7.78 (dd, 1H, J=7.5 and 1 Hz), 7.48 (td, 1H J=7.5 and 1 Hz), 7.40 (td, 1H, J=7.5 and 1 Hz) 7.32-7.26 (m, 3H), 7.19 (d, 2H, J=8 Hz), 6.99 (d, 1H, J=2.5 Hz), 6.28 (d, 1H, J=2.5 Hz), 5.17 (s, 2H), 2.78 (t, 2H, J=8 Hz), 1.91-1.81 (m, 2H), 1.54-1.41 (m, 2H), 1.23 (s, 9H), 0.96 (t, 3H, J=7 Hz).

reactant | 2-butyl-1H-thieno-[3,4-d]imidazole | 0.211 mmol, 38 mg | C(CCC)C1=NC=2C(N1)=CSC2 | C9H12N2S
reactant | NaH | 316 mmol | [H-].[Na+]
reactant | tert-butyl-4'-bromomethylbiphenyl-2-carboxylate | 0.232 mmol, 80.5 mg | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CBr | C18H19BrO2
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
solvent | brine | 5 mL | [Cl-].[Na+].O
product | 4'-[(2-butyl-1H-thieno[3,4-d]imidazol-1-yl)methyl][1,1'-biphenyl]-2-carboxylic acid t-butyl ester | 64 mg, 68% | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN1C(=NC=2C1=CSC2)CCCC | C27H30N2O2S
